US07026321B2
To a solution of (hydroxyimino)(4-methylphenyl)methane (97 mg, 0.72 mmol) in 1 ml of dichloromethane was added aqueous sodium hypochlorite solution (>4%, 1.33 ml, 0.72 mmol). The reaction mixture was stirred at room temperature for 30 minutes, after which time TLC (20:1 dichloromethane:methanol) showed conversion of oxime to chlorinated oxime (17). 1-(2-Methylbenzothiazol-5-yloxy)-3-(4-prop-2-enylpiperazinyl)propan-2-ol (50 mg, 0.144 mmol) in 0.5 ml of dichloromethane and triethylamine (0.022 ml, 0.145 mmol) were added. The reaction was stirred at room temperature overnight. Thin layer chromatography (10:1 dichloromethane:methanol) showed consumption of starting material and product formation. The solution was evaporated under reduced pressure, and the residue purified by preperative HPLC, to yield (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-(4-{[3-(4-methylphenyl)(4,5-dihydroisoxazol-5-yl)]methyl}piperazinyl)propan-2-ol (3.6 mg, M+1=481.35)

reactant | (hydroxyimino)(4-methylphenyl)methane | 0.72 mmol, 97 mg | ON=CC1=CC=C(C=C1)C | C8H9NO
reactant | sodium hypochlorite | 0.72 mmol, 1.33 ml | Cl[O-].[Na+]
reactant | 1-(2-Methylbenzothiazol-5-yloxy)-3-(4-prop-2-enylpiperazinyl)propan-2-ol | 0.144 mmol, 50 mg | CC=1SC2=C(N1)C=C(C=C2)OCC(CN2CCN(CC2)CC=C)O | C18H25N3O2S
reactant | triethylamine | 0.145 mmol, 0.022 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-(4-{[3-(4-methylphenyl)(4,5-dihydroisoxazol-5-yl)]methyl}piperazinyl)propan-2-ol | 3.6 mg | CC=1SC2=C(N1)C=C(C=C2)OC[C@@H](CN2CCN(CC2)CC2CC(=NO2)C2=CC=C(C=C2)C)O | C26H32N4O3S
